US06982268B2
A mixture of 2-[1-(3-chloro-5-methoxy-pyrazin-2-ylmethyl)-1H-imidazol-2-yl]-pyrimidine (30 mg, 0.099 mmol), and piperidine (1 mL) is heated at 110° C. in a sealed tube for 1 hour. On cooling, the volatile materials are removed in vacuo and the residue is purified by PTLC (silica gel; 10% MeOH in DCM) to give 35 mg of 2-[1-(5-Methoxy-3-piperidin-1-yl-pyrazin-2-ylmethyl)-1H-imidazol-2-yl]-pyrimidine. 1H NMR (CDCl3) 8.74 (d, 2H), 7.62 (s, 1H), 7.21 s, 1H), 7.08–7.15 (m, 2H), 5.86 (s, 2H), 3.87 (s, 3H), 3.06–3.15 (m, 4H), 1.52–1.66 (m, 6H).

reactant | 2-[1-(3-chloro-5-methoxy-pyrazin-2-ylmethyl)-1H-imidazol-2-yl]-pyrimidine | 0.099 mmol, 30 mg | ClC=1C(=NC=C(N1)OC)CN1C(=NC=C1)C1=NC=CC=N1 | C13H11ClN6O
reactant | piperidine | 1 mL | N1CCCCC1 | C5H11N
product | 2-[1-(5-Methoxy-3-piperidin-1-yl-pyrazin-2-ylmethyl)-1H-imidazol-2-yl]-pyrimidine | 35 mg | COC=1N=C(C(=NC1)CN1C(=NC=C1)C1=NC=CC=N1)N1CCCCC1 | C18H21N7O
